US05380721
A mixture of 2-(2,4-diethylbenzoyl)benzoic acid (40 g, 0.14 mol), toluene (120 mL) and methyl hydrazine (7.5 mL) were refluxed for 3 hours with removal of water via a Dean Stark trap. Additional toluene (100 mL) and methyl hydrazine (4.0 mL) were added and the mixture was refluxed until 2.8 mL of water was collected. The mixture was cooled, extracted with CH2Cl2 /2N NaOH, then 1N HCl and the organic layer was separated, dried over Na2SO4 and concentrated in vacuo. The residue was crystallized from ethanol/water and recrystallized from ethanol/water to afford 22.86 g (55.9%) of 2-methyl-4-(2,4-diethylphenyl)-1-(2H)-phthalazinone, m.p. 94.5°-96.5 ° C.

reactant | 2-(2,4-diethylbenzoyl)benzoic acid | 0.14 mol, 40 g | C(C)C1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)CC | C18H18O3
reactant | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl hydrazine | 7.5 mL | CNN | CH6N2
reactant | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
reactant | methyl hydrazine | 4.0 mL | CNN | CH6N2
solvent | water | 2.8 mL | O | H2O
product | 2-methyl-4-(2,4-diethylphenyl)-1-(2H)-phthalazinone | 22.86 g, 55.9% | CN1C(C2=CC=CC=C2C(=N1)C1=C(C=C(C=C1)CC)CC)=O | C19H20N2O
